US06867323B2
Preparation of (E)-1-[4-(1-Heptenyl)phenyl]ethanone ((E)-154c) [Table 22, entry 5]
Following General Procedure II, a mixture of KOSiMe3 (570 mg, 4.0 mmol, 2.0 equiv), (E)-21 (379 mg, 2.2 mmol, 1.1 equiv), 4-iodoacetophenone (492 mg, 2.0 mmol) and Pd(dba2) (58 mg, 0.1 mmol, 0.05 equiv) was stirred at room temperature for 9 h, and then was filtered through SiO2. Purification by column chromatography (RP C18, MeOH/H2O, 9/1) and Kugelrohr distillation afforded 354 mg (82%) of (E)-154c as colorless oil.

reactant | KOSiMe3 | 4.0 mmol, 570 mg, 2.0 equiv | O([K])[Si](C)(C)C
reactant | 4-iodoacetophenone | 2.0 mmol, 492 mg | CC(=O)C1=CC=C(C=C1)I | C8H7IO
product | (E)-1-[4-(1-Heptenyl)phenyl]ethanone | C(=C\CCCCC)/C1=CC=C(C=C1)C(C)=O | C15H20O
